US07763608B2
5-Ethynyl-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (32)
To a solution of 5-ethynyl-thiophene-2-carboxylic acid (83 mg, 0.54 mmol) and TEA (0.15. mL, 1.1 mmol) in DMF (4 mL), HATU (228 mg, 0.60 mmol) was added. After being stirred at room temperature for 30 min, a solution of 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one prepared above (145 mg, 0.54 mmol) and TEA (0.15 mL, 1.1 mmol) in DMF (8 mL) was added. The mixture was stirred at room temperature overnight. It was then purified by HPLC to give the title compound (65 mg). MS 401 (M+H).

reactant | 5-ethynyl-thiophene-2-carboxylic acid | 0.54 mmol, 83 mg | C(#C)C1=CC=C(S1)C(=O)O | C7H4O2S
reactant | HATU | 0.60 mmol, 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H14N4O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-Ethynyl-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 65 mg | C(#C)C1=CC=C(S1)C(=O)NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C22H16N4O2S
